US04723033
A solution of 300 mg of (S)-2-(6-methoxy-2-naphthyl)propionic acid in 5 ml of isobutyl alcohol is saturated with hydrogen chloride. After 24 hours, the excess alcohol is distilled off in vacuo and the residue is purified by chromatography using an alumina substrate to yield isobutyl (S)-2-(6-methoxy-2-naphthyl)propionate.

reactant | (S)-2-(6-methoxy-2-naphthyl)propionic acid | 300 mg | COC=1C=C2C=CC(=CC2=CC1)[C@@H](C(=O)O)C | C14H14O3
reactant | hydrogen chloride | Cl | ClH
solvent | isobutyl alcohol | 5 ml | C(C(C)C)O | C4H10O
product | isobutyl (S)-2-(6-methoxy-2-naphthyl)propionate | COC=1C=C2C=CC(=CC2=CC1)[C@@H](C(=O)OCC(C)C)C | C18H22O3
